US07452905B2
Process 5 Synthesis of 2,6-dichloro-4-tetrazolylbenzoic Acid Methylester
The mixture of 185 mg of 2,6-dichloro-4-cyanobenzoic acid methylester, 266 mg of azidotributyltin and 5 ml of toluene was stirred at 100° C. for 3 days. The reaction mixture was concentrated and diluted with ethyl acetate. After Celite filtration, the filtrate was concentrated and the residue was purified by reverse phase HPLC to obtain the title compound.

reactant | 2,6-dichloro-4-cyanobenzoic acid methylester | 185 mg | COC(C1=C(C=C(C=C1Cl)C#N)Cl)=O | C9H5Cl2NO2
reactant | azidotributyltin | 266 mg | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-dichloro-4-tetrazolylbenzoic Acid Methylester | COC(C1=C(C=C(C=C1Cl)C1=NN=NN1)Cl)=O | C9H6Cl2N4O2
